US09029399B2
Preparation of Intermediate 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-38a)
Using analogous reagents and reaction conditions as described in Example 11 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 500 mg, 2.46 mmol) was reacted with 4,6-dichloro-pyrimidine (403 mg, 2.70 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (117 mg, 0.246 mmol), Pd2(dba)3 (112 mg, 0.123 mmol), cesium carbonate (2.009 g, 6.15 mmol) and toluene (10 mL) in seal tube at 110° C. for 14 hours. Purification by column chromatography on silica gel (1.5% methanol in chloroform) afforded 140 mg of the product (18.18% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 2.46 mmol, 500 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 4,6-dichloro-pyrimidine | 2.70 mmol, 403 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.246 mmol, 117 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 6.15 mmol, 2.009 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.123 mmol, 112 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloropyrimidin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 140 mg, 18.18% yield | ClC1=CC(=NC=N1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O | C15H14ClN5O
